US06632909B2
0.94 ml (6.75 mmol) of triethylamine is added to a solution consisting of 1.0 g (4.50 mmol) of methyl 3(E)-(3-ethoxy-4-hydroxyphenyl)acrylate and 10 ml of methylene chloride and the reaction mixture is then cooled to 0° C. At this temperature, a solution of 1.11 ml (6.75 mmol) of trifluoromethanesulfonic anhydride and 5 ml of methylene chloride is added dropwise in the course of 30 minutes. Thereafter, the reaction suspension is partitioned between methylene chloride and water and the organic phase is washed several times with saturated sodium chloride solution, dried over magnesium sulfate, filtered and evaporated down. Chromatography of the residue over silica gel gives methyl 3(E)-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)acrylate.

reactant | triethylamine | 6.75 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 3(E)-(3-ethoxy-4-hydroxyphenyl)acrylate | 4.50 mmol, 1.0 g | C(C)OC=1C=C(C=CC1O)/C=C/C(=O)OC | C12H14O4
reactant | trifluoromethanesulfonic anhydride | 6.75 mmol, 1.11 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 3(E)-(3-ethoxy-4-trifluoromethanesulfonyloxyphenyl)acrylate | C(C)OC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)/C=C/C(=O)OC | C13H13F3O6S
